US08304419B2
Step B: 3-Chloro-4-formyl-1H-pyrrole-2-carboxylic acid
LiOH (1 N in water, 2 mL, 2 mmol) was added to a solution of methyl 3-chloro-4-formyl-1H-pyrrole-2-carboxylate (0.050 g, 0.26 mmol) in THF (2 mL) and methanol (2 mL). The solution was stirred at RT overnight. The solvents were evaporated to afford a residue which was partitioned between EtOAc and 1 N HCl. The organic layer was separated, dried over MgSO4, filtered and evaporated to a solid to afford the title compound (0.038 g, 83%) as a crude product which was used with no further purification. 1H NMR (400 MHz, Acetone-d6) δ ppm 11.76 (br. s., 1H), 9.90 (s, 1H), 7.72 (d, 1H). LCMS: m/z=174.2 (M+1).

reactant | LiOH | 2 mmol, 1 N, 2 mL | [Li+].[OH-]
reactant | methyl 3-chloro-4-formyl-1H-pyrrole-2-carboxylate | 0.26 mmol, 0.050 g | ClC1=C(NC=C1C=O)C(=O)OC | C7H6ClNO3
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
product | 3-Chloro-4-formyl-1H-pyrrole-2-carboxylic acid | 0.038 g, 83% | ClC1=C(NC=C1C=O)C(=O)O | C6H4ClNO3
